US08227622B2
[3-(4-Chlorophenylsulfanyl)-2-methyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-1-yl]acetic acid
A solution of LiOH (1.79 g, 1.77 g corrected for assay, 42.2 mmol) was added to a stirred solution of ethyl [3-(4-chlorophenylsulfanyl)-2-methyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-1-yl]acetate (7.5 g, 5.33 g corrected for assay, 14.1 mmol) in a mixture of THF (27 mL) and MeOH (27 mL). The mixture was stirred for 1 h. The solvents were removed in vacuo (45 mbar) at 45° C. until the volume of the mixture was ˜20 mL. Water (27 mL) and CH2Cl2 (27 mL) was added and the mixture stirred for 5 mins. The layers were allowed to separate, concentrated aqueous hydrochloric acid (5 mL) was added to the aqueous layer and the resulting solid product was collected by filtration and washed with water (5 mL). This crude damp product was slurried in a mixture of EtOAc (20 mL), CH5Cl2 (20 mL) and heptane (20 mL) at r.t. The product was dried briefly on the filter to give the title compound; 4.64 g; assay by 1H NMR: 89.3% w/w; yield corrected for assay: 4.14 g (84%); purity by LC 99.1 area %; m/z: 350 (MH+); 1H NMR: 1.99-2.05 (2H, m), 2.16 (3H, s), 2.26-2.31 (2H, t), 2.73-2.77 (2H, t), 4.83 (2H, s), 6.95-6.99 (2H, d), 7.23-7.27 (2H, d).

reactant | LiOH | 42.2 mmol, 1.79 g | [Li+].[OH-]
reactant | ethyl [3-(4-chlorophenylsulfanyl)-2-methyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-1-yl]acetate | 14.1 mmol, 7.5 g | ClC1=CC=C(C=C1)SC1=C(N(C=2CCCC(C12)=O)CC(=O)OCC)C | C19H20ClNO3S
solvent | THF | 27 mL | C1CCOC1 | C4H8O
solvent | MeOH | 27 mL | CO | CH4O
product | [3-(4-Chlorophenylsulfanyl)-2-methyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-1-yl]acetic acid | ClC1=CC=C(C=C1)SC1=C(N(C=2CCCC(C12)=O)CC(=O)O)C | C17H16ClNO3S
